US08404709B2
4-(2-Acetyl-3-oxobut-1-en-1-yl)-3-methoxybenzonitrile
21 g (130 mmol) of 4-formyl-3-methoxybenzonitrile, 14.7 ml (143 mmol) of 2,4-pentanedione, 11.2 ml (195 mmol) of acetic acid and 2.6 ml (26 mmol) of piperidine in 400 ml of dry dichloromethane are stirred under reflux with a water trap for 24 h. After cooling, the reaction solution is washed successively with saturated sodium bicarbonate solution and saturated sodium chloride solution. The organic phase is dried over magnesium sulfate and concentrated. The residue is recrystallized from diethyl ether. 23.2 g (92% of theory) of the title compound are obtained as a pale brown solid.

reactant | 4-formyl-3-methoxybenzonitrile | 130 mmol, 21 g | C(=O)C1=C(C=C(C#N)C=C1)OC | C9H7NO2
reactant | 2,4-pentanedione | 143 mmol, 14.7 ml | CC(CC(C)=O)=O | C5H8O2
reactant | acetic acid | 195 mmol, 11.2 ml | C(C)(=O)O | C2H4O2
reactant | piperidine | 26 mmol, 2.6 ml | N1CCCCC1 | C5H11N
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 4-(2-Acetyl-3-oxobut-1-en-1-yl)-3-methoxybenzonitrile | C(C)(=O)C(=CC1=C(C=C(C#N)C=C1)OC)C(C)=O | C14H13NO3
